US07465739B2
3-Benzyl-4-oxo-8-phenoxy-2-(3,4,5-trimethoxyphenyl)-3,4,5,6-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine-7-carbaldehyde
3-Benzyl-8-chloro-4-oxo-2-(3,4,5-trimethoxyphenyl)-3,4,5,6-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine-7-carbaldehyde (Compound No. 3) (50 mg, 96 μmol), phenol (13.5 mg, 143.4 μmol), KOH powder (8.0 mg, 143.4 μmol) and TBAB (1.0 mg) were heated at 85° C. for five hours and at 60° C. for 4,5 hours. The reaction mixture was filtered through cotton wool and evaporated. The crude product was purified by flash-chromatography. The compound No. 5 was isolated as a by-product.

reactant | 3-Benzyl-8-chloro-4-oxo-2-(3,4,5-trimethoxyphenyl)-3,4,5,6-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine-7-carbaldehyde | C(C1=CC=CC=C1)N1C(=NC2=C(C1=O)C1=C(S2)C(=C(CC1)C=O)Cl)C1=CC(=C(C(=C1)OC)OC)OC | C27H23ClN2O5S
reactant | phenol | 143.4 μmol, 13.5 mg | C1(=CC=CC=C1)O | C6H6O
reactant | KOH | 143.4 μmol, 8.0 mg | [OH-].[K+]
catalyst | TBAB | 1.0 mg | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
product | 3-Benzyl-4-oxo-8-phenoxy-2-(3,4,5-trimethoxyphenyl)-3,4,5,6-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine-7-carbaldehyde | C(C1=CC=CC=C1)N1C(=NC2=C(C1=O)C1=C(S2)C(=C(CC1)C=O)OC1=CC=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C33H28N2O6S
